US07981903B2
A solution of (2R)-1-acetyl-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indole (100 mg, 0.487 mmol)—see (Arp, Forrest O.; Fu, Gregory C. Kinetic Resolutions of Indolines by a Nonenzymatic Acylation Catalyst. Journal of the American Chemical Society (2006), 128(44), 14264-14265.)—in TFA (2 mL) at 0° C. was treated with sodium nitrite (33.6 mg, 0.487 mmol). The resulting red solution was stirred at 0° C. for 1 h. H2O (20 mL) was added, the resulting slurry was filtered and the solids were washed with water to afford (2R)-1-acetyl-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole as a yellow solid (85 mg, 70%). 1H NMR (400 MHz, DMSO-d8) δ ppm 1.22 (d, J=6.41 Hz, 3H), 2.22 (s, 3H), 2.76 (d, J=17.21 Hz, 1H), 3.45 (dd, J=17.12, 8.88 Hz, 1H), 3.89 (s, 3H), 4.59-4.74 (m, 1H), 7.35 (s, 1H), 8.40 (s, 1H); ESIMS (M+H)+=251.00.

reactant | (2R)-1-acetyl-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indole | 0.487 mmol, 100 mg | C(C)(=O)N1[C@@H](CC2=CC(=CC=C12)OC)C | C12H15NO2
reactant | sodium nitrite | 0.487 mmol, 33.6 mg | N(=O)[O-].[Na+]
reactant | H2O | 20 mL | O | H2O
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R)-1-acetyl-2-methyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 85 mg, 70% | C(C)(=O)N1[C@@H](CC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C12H14N2O4
